US07709645B2
To a −78° C. solution of (2-bromo-phenyl)-methanol (2.27 g, 12.14 mmol) in tetrahydrofuran (100 ml) was added tert-butyllithium (1.7 M in hexanes, 15.7 ml, 26.69 mmol). The reaction mixture was stirred for 10 minutes at −78° C. A solution of 2,2-dimethyl-propionic acid 5-bromo-3-formyl-pyrrolo[2,3-b]pyridin-1-ylmethyl ester (2.06 g, 6.07 mmol) in tetrahydrofuran (30 ml) was added to the stirring reaction mixture. After the reaction mixture was allowed stirred for an additional 20 minutes at −78° C., the reaction was quenched with saturated, aqueous sodium bicarbonate solution. The quenched solution was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and the mixture was concentrated in vacuo. The crude material was purified by flash chromatography (0-100% ethyl acetate in hexanes) to give 1.60 g (59%) of 2,2-dimethyl-propionic acid 5-bromo-3-[hydroxy-(2-hydroxymethyl-phenyl)-methyl]-pyrrolo[2,3-b]pyridin-1-ylmethyl ester. MS: m/z 446.0, 448.0 (M+H+).

reactant | (2-bromo-phenyl)-methanol | 12.14 mmol, 2.27 g | BrC1=C(C=CC=C1)CO | C7H7BrO
reactant | tert-butyllithium | 26.69 mmol, 1.7 M, 15.7 ml | C(C)(C)(C)[Li]
reactant | 2,2-dimethyl-propionic acid 5-bromo-3-formyl-pyrrolo[2,3-b]pyridin-1-ylmethyl ester | 6.07 mmol, 2.06 g | BrC=1C=C2C(=NC1)N(C=C2C=O)COC(C(C)(C)C)=O | C14H15BrN2O3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2,2-dimethyl-propionic acid 5-bromo-3-[hydroxy-(2-hydroxymethyl-phenyl)-methyl]-pyrrolo[2,3-b]pyridin-1-ylmethyl ester | 1.60 g, 59% | BrC=1C=C2C(=NC1)N(C=C2C(C2=C(C=CC=C2)CO)O)COC(C(C)(C)C)=O | C21H23BrN2O4
